US08278482B2
4-(2-(tert-Butoxycarbonylamino)-2-methylpropyl)-4-methylmorpholin-4-ium iodide (840 mg, 2.1 mmol) was dissolved in methanol (5 ml). To the solution was added 4M hydrogen chloride in dioxane (25 ml), and stirred for 4 hours at room temperature. The reaction mixture was concentrated and dissolved in water. Silver oxide (1.0 g) was added to the aqueous solution and the mixture was stirred at room temperature for 30 minutes. The solution was filtered through Celite®, and concentrated hydrochloric acid (0.5 ml) was added to the solution. The solution was filtered through Celite® a second time, and the aqueous solution was concentrated in vacuo to give 380 mg (87%) of 4-(2-amino-2-methylpropyl)-4-methylmorpholin-4-ium chloride. MS (ESI+) calculated for C9H21N2O+: 173.16, Found: 173 (M+).

reactant | 4-(2-(tert-Butoxycarbonylamino)-2-methylpropyl)-4-methylmorpholin-4-ium iodide | 2.1 mmol, 840 mg | [I-].C(C)(C)(C)OC(=O)NC(C[N+]1(CCOCC1)C)(C)C
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 4-(2-amino-2-methylpropyl)-4-methylmorpholin-4-ium chloride | 380 mg, 87% | [Cl-].NC(C[N+]1(CCOCC1)C)(C)C | InChI=1S/C9H21N2O.ClH/c1-9(2,10)8-11(3)4-6-12-7-5-11;/h4-8,10H2,1-3H3;1H/q+1;/p-1
